US06008243
According to the procedure described in Example 14(a) for the preparation of 2-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-acetic acid methyl ester, 4-amino-4-cyano-biphenyl (commercially available from TCI) and methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)acetate were condensed in 6 hours at 80° C. to give a crude product. Successive flash column chromatography with EtOAc/CH2Cl2Cl2 /hex gave in 60% yield 2-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-acetic acid methyl ester as an amorphous solid. 1 1H NMR: δ 7.75 (d, 2H, J=8.8 Hz), 7.69 (d, 2H, J=8.8 Hz), 7.64 (d, 2H, J=8.5 Hz), 7.48 (d, 2H, J=8.8 Hz), 7.10-7.09 (m, 2H), 6.33 (t, 1H, J=2.2 Hz), 3.73 (s, 3H), 3.58 (s, 2H). Anal. Calculated for C20H16N2O2 : C, 75.93; H, 5.10; N, 8.86. Found: C, 75.86; H, 5.14; N, 8.90.

reactant | 2-[1-(4-fluorophenyl)-1H-pyrrol-3-yl]-acetic acid methyl ester | COC(CC1=CN(C=C1)C1=CC=C(C=C1)F)=O | C13H12FNO2
reactant | 4-amino-4-cyano-biphenyl | NC1(CC=C(C=C1)C1=CC=CC=C1)C#N | C13H12N2
reactant | methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)acetate | COC1OC(CC1CC(=O)OC)OC | C9H16O5
product | 2-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-acetic acid methyl ester | 60% yield | COC(CC1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C20H16N2O2
